US07473790B2
Methyl 5-({6-cyclopentyl-4-hydroxy-6-[2-(4-methoxyphenyl)ethyl]-2-oxo-5,6-dihydro-2H-pyran-3-yl}methyl)isoxazol-3-ylcarbamate
The title compound was prepared as described in Example B(53), using methyl 5-(bromomethyl)isoxazol-3-ylcarbamate (prepared as described: Sircar, J. C.; Capiris, T. U.S. Pat. No. 4,489,077, Dec. 18, 1984) in place of 5-(chloromethyl)-1,3-dimethyl-1H-1,2,4-triazole, and using 6-cyclopentyl-6-[2-(4-methoxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione in place of 6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione. Yield: 13%. 1H NMR (300 MHz, DMSO-d6) δ 1.15-1.65 (m, 8H), 1.80 (m, 2H), 2.25 (m, 1H), 2.39-2.51 (m, 3H, overlap with DMSO-d5), 2.68 (d, J=17.4 Hz, 1H), 3.51 (s, 2H), 3.56 (s, 3H), 3.61 (s, 3H), 6.24 (s, 1H), 6.72 (d, J=8.4 Hz, 2H), 6.95 (d, J=8.4 Hz, 2H), 10.47 (s, 1H), 11.15 (br s, 1H). LC-MS (APCI) calcd for C25H30N2O7: 470.21; found (M+H+) 471.1 m/z.

reactant | methyl 5-(bromomethyl)isoxazol-3-ylcarbamate | BrCC1=CC(=NO1)NC(OC)=O | C6H7BrN2O3
reactant | 5-(chloromethyl)-1,3-dimethyl-1H-1,2,4-triazole | ClCC1=NC(=NN1C)C | C5H8ClN3
reactant | 6-cyclopentyl-6-[2-(4-methoxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC=C(C=C1)OC | C19H24O4
product | Methyl 5-({6-cyclopentyl-4-hydroxy-6-[2-(4-methoxyphenyl)ethyl]-2-oxo-5,6-dihydro-2H-pyran-3-yl}methyl)isoxazol-3-ylcarbamate | Yield: 13% | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=CC(=NO1)NC(OC)=O)O)CCC1=CC=C(C=C1)OC | C25H30N2O7
